US06992188B1
1-(1-Ethyl-propyl)-2-methoxy-3,6-dimethyl-4-(2,4,6-trimethyl-phenoxy)-1H-pyrrolo[3,2-c]pyridine
To a 0° C. solution of 1-(1-Ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1,3-dihydro-pyrrolo[3,2-c]pyridin-2-one (134 mg, 0.381 mmol) in 2 ml of HMPA was added 60% sodium hydride in oil (20 mg, 0.5 mmol) and the resulting mixture was stirred at 0° C. for 10 min. Dimethyl sulfate (66.5 mg, 0.53 mmol) was added and stirred for 30 min. The reaction mixture was quenched with dilute acid to pH4 and extracted with ethyl acetate. The organic layer was washed with brine, dried and concentrated to give a clear oil. The oil was purified through silica gel column chromatography using 3% ethyl acetate in hexane as eluent to give 70 mg of the title compound as white solid. 1H NMR (CDCl3) δ 6.88(s,2H), 6.61(s,1H), 4.0(m,1H), 3.95(s,3H), 2,44(s,3H), 2.29(s,3H), 2.26(s,3H), 2.10(s,6H), 1.95–2.1(m,2H), 1.7–1.9(m,2H), 0.78(t,6H)ppm.

reactant | 1-(1-Ethyl-propyl)-6-methyl-4-(2,4,6-trimethyl-phenoxy)-1,3-dihydro-pyrrolo[3,2-c]pyridin-2-one | 0.381 mmol, 134 mg | C(C)C(CC)N1C(CC=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C)=O | C22H28N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | Dimethyl sulfate | 0.53 mmol, 66.5 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HMPA | 2 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 1-(1-Ethyl-propyl)-2-methoxy-3,6-dimethyl-4-(2,4,6-trimethyl-phenoxy)-1H-pyrrolo[3,2-c]pyridine | 70 mg | C(C)C(CC)N1C(=C(C=2C(=NC(=CC21)C)OC2=C(C=C(C=C2C)C)C)C)OC | C24H32N2O2
